US06806384B2
To (4S,5R)-4-benzyl-5-hydroxymethyloxazolidin-2-one obtained in the same manner as in Example 3 (4.68 g) were added acetonitrile (46.8 ml) and water (46.8 ml), and then sodium hydrogencarbonate (4.68 g), TEMPO (2,2,6,6-tetramethyl-1-piperidinyloxy (0.0468 g) and potassium bromide (2.69 g) were added. The mixture was stirred and 12% aqueous sodium hypochlorite solution (35.0 g) was added dropwise at room temperature over 30 min. The mixture was stirred at room temperature for 7 hr, and 12% aqueous sodium hypochlorite solution (14.0 g) was further added. The mixture was stirred for 12 hr and 12% aqueous sodium hypochlorite solution (7.0 g) was further added, which was followed by stirring for 3 hr. The reaction was quenched by adding sodium hydrogensulfite (2.84 g). The reaction mixture was analyzed by HPLC to confirm that (4S,5R)-4-benzyl-2-oxo-5-oxazolidinecarboxylic acid (4.67 g, yield 93%) was obtained. The mixture was extracted twice with dichloromethane (50 ml, 50 ml) and the solvent of the organic layer was removed under reduced pressure. The obtained oil was analyzed by HPLC to confirm that (4S,5R)-4-benzyl-2-oxo-5-oxazolidinecarboxylic acid (4.00 g, yield 80%) was obtained.

reactant | (4S,5R)-4-benzyl-5-hydroxymethyloxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(O[C@H]1CO)=O | C11H13NO3
reactant | sodium hydrogencarbonate | 4.68 g | C(O)([O-])=O.[Na+]
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | potassium bromide | 2.69 g | [Br-].[K+]
reactant | sodium hypochlorite | 35.0 g | Cl[O-].[Na+]
reactant | sodium hypochlorite | 14.0 g | Cl[O-].[Na+]
reactant | sodium hypochlorite | 7.0 g | Cl[O-].[Na+]
solvent | water | 46.8 ml | O | H2O
solvent | acetonitrile | 46.8 ml | C(C)#N | C2H3N
product | (4S,5R)-4-benzyl-2-oxo-5-oxazolidinecarboxylic acid | 4.67 g, yield 93% | C(C1=CC=CC=C1)[C@@H]1NC(O[C@H]1C(=O)O)=O | C11H11NO4
